US07759382B2
A solution of 2.52 g (30 mmol) of cyanoacetic acid in 80 mL of dry THF was stirred at −78° C. as 24.6 mL (49.2 mmol) of 2.0 M i-PrMgCl in THF was added. After 1 h, a solution of 3.00 g (10 mmol) 1-tert-butoxycarbonyl-4-phenylpiperidine-4-carboxylic acid (Maybridge, cat. no. JFD 01929) and 1.93 g (12 mmol) of 1,1′-carbonyldiimidazole in 20 mL of THF was added. The reaction mixture was allowed to warm to rt. After 16 h, the mixture was poured into 300 mL of water and the pH lowered to 4 with conc. AcOH. The mixture was then extracted with EtOAc, dried over MgSO4 and concentrated. Purification on silica gel using 1:1 EtOAc-hexanes as eluant afforded 4-(2-cyanoacetyl)-4-phenylpiperidine-1-carboxylic acid tert-butyl ester.

reactant | cyanoacetic acid | 30 mmol, 2.52 g | C(#N)CC(=O)O | C3H3NO2
reactant | i-PrMgCl | 49.2 mmol, 2.0 M, 24.6 mL | C(C)(C)[Mg]Cl
reactant | 1-tert-butoxycarbonyl-4-phenylpiperidine-4-carboxylic acid | 10 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
reactant | 1,1′-carbonyldiimidazole | 12 mmol, 1.93 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
product | 4-(2-cyanoacetyl)-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C(CC#N)=O | C19H24N2O3
